US07041685B2
5-(3-Chloro-thiophen-2-yl)-3-(5-trifluoromethyl-pyridin-2-yl)-[1,2,4]-oxadiazole
The title compound was prepared from 5-trifluoromethyl-pyridine-2-amidoxime (429 mg, 2.09 mmol) and 3-chloro-thiophene-2-carbonyl chloride (378 mg, 2.09 mmol) similar to Example 16, and yielded 535 mg (77%) of white solid. 1H NMR (CDCl3): 9.09 (m, 1H), 8.36 (d, J=8.24 Hz, 1H), 8.14 (m, 1H), 7.66 (d, J=5.22 Hz, 1H), 7.16 (d, J=5.22 Hz, 1H).

reactant | 5-trifluoromethyl-pyridine-2-amidoxime | 2.09 mmol, 429 mg | FC(C=1C=CC(=NC1)C(N)=NO)(F)F | C7H6F3N3O
reactant | 3-chloro-thiophene-2-carbonyl chloride | 2.09 mmol, 378 mg | ClC1=C(SC=C1)C(=O)Cl | C5H2Cl2OS
product | 5-(3-Chloro-thiophen-2-yl)-3-(5-trifluoromethyl-pyridin-2-yl)-[1,2,4]-oxadiazole | ClC1=C(SC=C1)C1=NC(=NO1)C1=NC=C(C=C1)C(F)(F)F | C12H5ClF3N3OS
